### PR TITLE
[Merged by Bors] - feat(Algebra/QuadraticAlgebra): quadratic extensions are quadratic algebras

### PR DESCRIPTION
**Pull request by xroblot**
Relates the construction `QuadraticAlgebra R a b` to the predicate `Algebra.IsQuadraticExtension`:

* `QuadraticAlgebra.instIsQuadraticExtension`: a `QuadraticAlgebra` is a quadratic extension;
* `Algebra.IsQuadraticExtension.exists_algEquiv_quadraticAlgebra`: every commutative quadratic
  extension is isomorphic to some `QuadraticAlgebra R a b`.

---

 - [x] depends on: #42708
 - [x] depends on: #42439
 - [x] depends on: #42466
 - [x] depends on: #43242

### CODE REVIEW

File: Mathlib/RingTheory/Trace/Basic.lean [hunk 1]
```diff
@@ -627,3 +627,28 @@ lemma Module.Basis.traceDual_powerBasis_eq (pb : PowerBasis K L) (i) :
   ring
 
 end Basis
+
+namespace Algebra
+
+section IsQuadraticExtension
+
+variable {R A : Type*} [CommRing R] [Nontrivial R] [CommRing A] [Algebra R A]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Trace/Basic.lean]:
```suggestion
variable {R A : Type*} [CommRing R] [StrongRankCondition R] [CommRing A] [Algebra R A]
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean [hunk 2]
```diff
@@ -66,6 +66,15 @@ section PowerBasis
 
 open Algebra
 
+/-- Cayley–Hamilton: an algebra element is a root of the characteristic polynomial of its
+matrix of left multiplication in any basis. -/
+theorem Algebra.aeval_leftMulMatrix_charpoly {S : Type*} [Semiring S] [Algebra R S] {ι : Type*}
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean]: The name seems wrong, `aeval_charpoly_leftMulMatrix` looks better to me.

Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean]: This is in the `PowerBasis` section but has nothing to do with power basis.

File: Mathlib/RingTheory/Trace/Basic.lean [hunk 3]
```diff
@@ -627,3 +627,28 @@ lemma Module.Basis.traceDual_powerBasis_eq (pb : PowerBasis K L) (i) :
...
+  [IsQuadraticExtension R A]
+
+variable (R) in
+/-- Every element of a quadratic extension satisfies its characteristic equation. -/
+theorem IsQuadraticExtension.sq_sub_trace_smul_add_norm_eq_zero (a : A) :
+    a ^ 2 - Algebra.trace R A a • a + algebraMap R A (Algebra.norm R a) = 0 := by
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Trace/Basic.lean]:
```suggestion
    a ^ 2 - trace R A a • a + algebraMap R A (norm R a) = 0 := by
```
Should work, and similarly below.

**Review by riccardobrasca — COMMENTED** [review]
Can you add the link between the trace/norm in the quadratic algebra case and the general version?

**Comment by xroblot** [comment]
> Can you add the link between the trace/norm in the quadratic algebra case and the general version?

Do you mean like this: #42297

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean]: Indeed.

Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/Charpoly/Minpoly.lean]: I moved it to `Charpoly.Basic`

**Comment by riccardobrasca** [comment]
> > Can you add the link between the trace/norm in the quadratic algebra case and the general version?
> 
> Do you mean like this: #42297

Yes exactly. Let's keep those separated.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
